US07183270B2
N-((S)-1-((1S, 2R, 4R)-4-(isopropyl(methyl)amino)-2-(phenylsulfonylmethyl)cyclohexyl)-2-oxoazepan-3-yl)-3-(trifluoromethyl)benzamide trifluoroacetate
To a solution of N-[(3S)-1-(1S,2R,4R)-(4-amino-2-benzenesulfonylmethyl-cyclohexyl)-2-oxo-azepan-3-yl]-3-trifluoromethyl-benzamide (30 mg) in CH2Cl2 (15 mL) at rt was added NaBH(OAc)3 (50 mg), acetone (2 mL), and three drops of AcOH. After 2 h, formaldehyde (2 mL) was added and the solution was stirred for another 2 h. The reaction mixture was diluted with EtOAc and washed with saturated NaHCO3, water, and brine. The organic layer was dried, filtered, and concentrated to afford to a crude oil which was purified by semi-preparative HPLC to give the title compound. MS [M+H]+32 608.

reactant | N-[(3S)-1-(1S,2R,4R)-(4-amino-2-benzenesulfonylmethyl-cyclohexyl)-2-oxo-azepan-3-yl]-3-trifluoromethyl-benzamide | 30 mg | N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CCCC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)CS(=O)(=O)C1=CC=CC=C1 | C27H32F3N3O4S
reactant | NaBH(OAc)3 | 50 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetone | 2 mL | CC(=O)C | C3H6O
reactant | formaldehyde | 2 mL | C=O | CH2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | AcOH | three drops | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-((S)-1-((1S, 2R, 4R)-4-(isopropyl(methyl)amino)-2-(phenylsulfonylmethyl)cyclohexyl)-2-oxoazepan-3-yl)-3-(trifluoromethyl)benzamide trifluoroacetate | FC(C(=O)O)(F)F.C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N1C([C@H](CCCC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)CS(=O)(=O)C1=CC=CC=C1)C | InChI=1S/C31H40F3N3O4S.C2HF3O2/c1-21(2)36(3)25-15-16-28(23(19-25)20-42(40,41)26-12-5-4-6-13-26)37-17-8-7-14-27(30(37)39)35-29(38)22-10-9-11-24(18-22)31(32,33)34;3-2(4,5)1(6)7/h4-6,9-13,18,21,23,25,27-28H,7-8,14-17,19-20H2,1-3H3,(H,35,38);(H,6,7)/t23-,25+,27-,28-;/m0./s1
